US06313312B1
1-(2-Nitrophenyl)-1-ethanone hydrazone
To a solution of 2′-nitroacetophenone (8.26 g, 50.00 mmol) in ethanol (50 ml) was added hydrazine monohydrate (4.85 ml, 100 mmol) and the reaction mixture was heated at 70 ° C. for 5 h. The reaction mixture was cooled to room temperature and water (100 nml) was added. After 5 d, the reaction mixture was concentrated in vacuo to ca. 100 ml and diethyl ether (100 ml) was added. The layers were separated and the aqueous layer was extracted with diethyl ether (100 ml). The combined extracts were dried (Na2SO4) and concentrated in vacuo to afford ca. 8.0 g of a crude yellow oil. This was purified by chromatography in two batches Iusing a Biotage Flash 40M™ cartridge packed with silica gel (90 g) eluting with dichloromethane:diethyl ether (19:1) to afford the title compound as viscous yellow oil (4.20 g, 45%).

reactant | 2′-nitroacetophenone | 50.00 mmol, 8.26 g | [N+](=O)([O-])C1=C(C=CC=C1)C(C)=O | C8H7NO3
reactant | hydrazine monohydrate | 100 mmol, 4.85 ml | O.NN
reactant | water | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-(2-Nitrophenyl)-1-ethanone hydrazone | 4.20 g, 45% | [N+](=O)([O-])C1=C(C=CC=C1)C(C)=NN | C8H9N3O2
